US07163937B2
Preparation H1, Step 2: A solution of 2 g (0.01 mol) of methyl-3-cyanobenzoate in 32 ml of THF and 8 ml of water was charged with 2.3 g (0.012 mol) of diethyl dithiophosphate and heated at 80° C. for 24 h. THF was removed and the residue was taken in ethyl acetate. The extract was washed with water and concentrated to afford methyl 3-carbamothioylbenzoate (2.0 g) as a pale yellow solid.

reactant | methyl-3-cyanobenzoate | 0.01 mol, 2 g | COC(C1=CC(=CC=C1)C#N)=O | C9H7NO2
reactant | diethyl dithiophosphate | 0.012 mol, 2.3 g | P(=S)(SCC)(OCC)[O-]
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | water | 8 ml | O | H2O
product | methyl 3-carbamothioylbenzoate | 2.0 g | C(N)(=S)C=1C=C(C(=O)OC)C=CC1 | C9H9NO2S
